US09108957B2
The mixture of 3-oxo-3-phenyl-propionic acid ethyl ester (5.0 g, 26 mmol), benzylamine (2.9 mL, 26 mmol) and p-toluenesulfonic acid monohydrate (0.50 g, 2.6 mmol) in toluene (100 mL) was refluxed for 3 hours and concentrated. The residual materials were dissolved in cyclopentylmethylether (150 ml) and lithium aluminum hydride (3.0 g, 78 mmol) was added portionwise at 0° C. under nitrogen atmosphere. After stirring for 3 hours, small amount of sodium sulfate saturated aqueous solution was added dropwise and stirred for one hour. The resulting mixture was filtrated to remove solid materials and concentrated. Then the resulting residue was dissolved in dichloromethane (30 mL) To the mixture was added triethylamine (1.4 mL, 10 mmol) and chloroacetylchloride (0.56 g, 7.0 mmol) at 0° C. and the resulting mixture was stirred for one hour. The reaction mixture was poured into water and extracted with chloroform. The organic extracts were dried over sodium sulfate and concentrated. The residual material was dissolved in 2-propanol (30 mL) and potassium hydroxide (1.3 g, 20 mmol) was added at room temperature. After stirring for 18 hours, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic phase was dried over anhydrous sodium sulfate and concentrated. The residual material was purified by flash column chromatography on silica gel (hexane/ethyl acetate=100/0 to 1/1 as an eluant) to afford 4-benzyl-5-phenyl-[1,4]oxazepan-3-one (0.77 g, 2.7 mmol, 10% from ethylbenzoyl acetate) as yellow oil.

reactant | 3-oxo-3-phenyl-propionic acid ethyl ester | 26 mmol, 5.0 g | C(C)OC(CC(C1=CC=CC=C1)=O)=O | C11H12O3
reactant | benzylamine | 26 mmol, 2.9 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | p-toluenesulfonic acid monohydrate | 2.6 mmol, 0.50 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | lithium aluminum hydride | 78 mmol, 3.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | triethylamine | 10 mmol, 1.4 mL | C(C)N(CC)CC | C6H15N
reactant | chloroacetylchloride | 7.0 mmol, 0.56 g | ClCC(=O)Cl | C2H2Cl2O
reactant | potassium hydroxide | 20 mmol, 1.3 g | [OH-].[K+]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 4-benzyl-5-phenyl-[1,4]oxazepan-3-one | 2.7 mmol, 0.77 g, 10% | C(C1=CC=CC=C1)N1C(COCCC1C1=CC=CC=C1)=O | C18H19NO2
